US04652668
N-(1-Cyano-3-Phenylpropyl)-L-Alanine
L-alanine (3.56 g) is dissolved in aqueous sodium cyanide (1.96 g/40 ml) and a methanolic solution of 3-phenylpropionaldehyde (5.63 g/25 ml) is added under vigorous stirring, bringing the total volume to 65 ml. The mixture is stirred at room temperature for 3 hours, extracted with chloroform, and acidified with 2NHCl (pH 3-4). The resulting precipitate is collected, washed, and dried, and used in the next reaction without further purification [m.p.=115° C. (decompose); TLC (Silica gel; CHCl3 /MeOH/HOAC=9:1:0.5); Rf=0.60].

reactant | L-alanine | 3.56 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | 3-phenylpropionaldehyde | 25 ml, 5.63 g | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
reactant | sodium cyanide | 40 ml, 1.96 g | [C-]#N.[Na+]
product | N-(1-Cyano-3-Phenylpropyl)-L-Alanine | C(#N)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C13H16N2O2
